US07091215B2
After dissolving tert-butyl N-[2-methylthiopyrazolo[1,5-a]pyridin-3-yl]carbamate (220 mg) in tetrahydrofuran (3 mL), a solution of n-butyllithium in hexane (1.6 M; 1.51 mL) was added dropwise at −78° C. under a nitrogen stream, and the mixture was stirred for 30 minutes. A solution of 1,2-dibromo-1,1,2,2-tetrachloroethane (384 mg) in tetrahydrofuran (2 mL) was added to the reaction mixture, and stirring was continued for 30 minutes. Saturated aqueous ammonium chloride was added to the reaction mixture, the temperature was raised to room temperature, extraction was performed with ethyl acetate and the extract was washed with water and brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and tert-butyl N-[7-bromo-2-methylthiopyrazolo[1,5-a]pyridin-3-yl]carbamate was obtained from the n-hexane:ethyl acetate (10:1) fraction as yellow crystals. After dissolving this in 1,2-dimethoxyethane (6 mL) and water (1 mL), 2,4-dichlorophenylboric acid (191 mg), tetrakis(triphenylphosphine)palladium (0) complex (116 mg) and barium hydroxide octahydrate (315 mg) were added and the mixture was heated and stirred at 80° C. for 4 hours under a nitrogen stream. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (160 mg) was obtained from the n-hexane:ethyl acetate (20:1) fraction as a yellow oil.

reactant | tert-butyl N-[2-methylthiopyrazolo[1,5-a]pyridin-3-yl]carbamate | 220 mg | CSC1=NN2C(C=CC=C2)=C1NC(OC(C)(C)C)=O | C13H17N3O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 384 mg | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M, 1.51 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tert-butyl N-[7-bromo-2-methylthiopyrazolo[1,5-a]pyridin-3-yl]carbamate | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)SC | C13H16BrN3O2S
